US05622954
Under a nitrogen atmosphere, a solution of 5.0 grams (0.015 mole) of ethyl 2-methylcarbonyl-5-(2,5-dichlorophenyl)-4-hexenoate in 70 mL of ethanol is stirred, and 3.1 grams (0.032 mole) of guanidine hydrochloride is added. To this is then added dropwise a mixture of 1.5 grams (0.038 mole) of sodium hydride (60% in mineral oil) in 30 mL of ethanol. Upon completion of addition, the reaction mixture is warmed to reflux where it is stirred for about 18 hours. After this time the reaction mixture is cooled and concentrated under reduced pressure to a residual oil. The oil is stirred with 40 mL of aqueous 10% acetic acid, and the acid wash is decanted from the oil. This is repeated with an additional 40 mL of aqueous 10% acetic acid, and then with two 30 mL portions of water. The oil is dissolved in hot ethanol and the solution is placed in a refrigerator. The resultant solid is collected by filtration, yielding 4.7 grams of 2-amino-4-hydroxy-6-methyl-5-[3-(2,5-dichlorophenyl)-2-butenyl]pyrimidine, mp>250° C. The NMR spectrum is consistent with the proposed structure.

reactant | ethyl 2-methylcarbonyl-5-(2,5-dichlorophenyl)-4-hexenoate | 0.015 mole, 5.0 grams | CC(=O)C(C(=O)OCC)CC=C(C)C1=C(C=CC(=C1)Cl)Cl | C16H18Cl2O3
reactant | guanidine hydrochloride | 0.032 mole, 3.1 grams | Cl.NC(=N)N
reactant | sodium hydride | 0.038 mole, 1.5 grams | [H-].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-amino-4-hydroxy-6-methyl-5-[3-(2,5-dichlorophenyl)-2-butenyl]pyrimidine | 4.7 grams | NC1=NC(=C(C(=N1)O)CC=C(C)C1=C(C=CC(=C1)Cl)Cl)C | C15H15Cl2N3O
